US09193719B2
2,4-Dimethyl-3-((2-(1-methyl-1H-pyrazol-4-yl)pyridin-4-yl)oxy)-6-nitropyridine (0.56 g, 1.8 mmol) and NH4Cl (2.76 g, 51.6 mmol) were combined in a solution of MeOH (8.6 mL) and THF (8.6 mL) and cooled to 0° C. Zinc powder (1.13 g, 17.2 mmol) was added portion-wise over 30 min and the reaction mixture was allowed to warm to RT and stirred vigorously for 12 h. EtOAc (100 mL) was added and the resultant suspension was filtered through a pad of diatomaceous earth. The filter cake was washed with EtOAc (3×10 mL) and the combined filtrates were concentrated in vacuo. The residue was purified by silica gel chromatography (MeOH/DCM) to afford 4,6-dimethyl-5-((2-(1-methyl-1H-pyrazol-4-yl)pyridin-4-yl)oxy)pyridin-2-amine (0.41 g, 81%) as a light red solid. MS (ESI) m/z: 296.1 (M+H+).

reactant | 2,4-Dimethyl-3-((2-(1-methyl-1H-pyrazol-4-yl)pyridin-4-yl)oxy)-6-nitropyridine | 1.8 mmol, 0.56 g | CC1=NC(=CC(=C1OC1=CC(=NC=C1)C=1C=NN(C1)C)C)[N+](=O)[O-] | C16H15N5O3
reactant | NH4Cl | 51.6 mmol, 2.76 g | [NH4+].[Cl-]
reactant | MeOH | 8.6 mL | CO | CH4O
reactant | THF | 8.6 mL | C1CCOC1 | C4H8O
catalyst | Zinc | 17.2 mmol, 1.13 g | [Zn] | Zn
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | 4,6-dimethyl-5-((2-(1-methyl-1H-pyrazol-4-yl)pyridin-4-yl)oxy)pyridin-2-amine | 0.41 g, 81% | CC1=CC(=NC(=C1OC1=CC(=NC=C1)C=1C=NN(C1)C)C)N | C16H17N5O
